US07914862B2
In a reactor under nitrogen atmosphere, 50 mL of THF was added to 14.7 g of methoxymethyltriphenylphosphonium chloride, and the mixture was cooled to −20° C., to which 4.8 g of t-BuOK was added, followed by stirring for 1 hour. A solution containing 8.1 g of 4-(4-ethoxy-2,3-difluorophenoxymethyl)cyclohexanone obtained in the fifth step dissolved in 100 mL of THF was added dropwise thereto, followed by stirring for 1 hour. The temperature of the reaction mixture was increased to room temperature, and 200 mL of water was added to the reaction mixture, which was extracted three times with 300 mL of toluene. The resulting organic layer was washed with water, dried over anhydrous magnesium sulfate, and the solvent was concentrated to about 200 mL under reduced pressure, and the concentrated solution was placed in 1,000 mL of n-hexane, followed by removing the deposited solid matters. The solvent was distilled off from the resulting solution under reduced pressure, and the residue was purified by silica gel column chromatography to provide 8.3 g of 1-ethoxy-2,3-difluoro-4-(4-methoxymethylenecyclohexylmethoxy)benzene.

reactant | methoxymethyltriphenylphosphonium chloride | 14.7 g | [Cl-].COC[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | t-BuOK | 4.8 g | CC(C)(C)[O-].[K+]
reactant | 4-(4-ethoxy-2,3-difluorophenoxymethyl)cyclohexanone | 8.1 g | C(C)OC1=C(C(=C(OCC2CCC(CC2)=O)C=C1)F)F | C15H18F2O3
reactant | water | 200 mL | O | H2O
solvent | THF | 100 mL | C1CCOC1 | C4H8O
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | 1-ethoxy-2,3-difluoro-4-(4-methoxymethylenecyclohexylmethoxy)benzene | 8.3 g | C(C)OC1=C(C(=C(C=C1)OCC1CCC(CC1)=COC)F)F | C17H22F2O3
